US05705499
2-chloro-5,11-dihydro-11-ethyl-8-(3-hydroxyphenyl)methyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
Resorcinol (0.082 g, 0.74 mmol) in dimethyl sulfoxide (1 mL) was treated with potassium tert-butoxide (1.0M in tetrahydrofuran, 0.15 mL, 0.15 mmol). The resulting stirred solution was treated with 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.050 g, 0.14 mmol) in dimethyl sulfoxide (1 mL) and the mixture was stirred an additional 16 hours. The mixture was diluted with ethyl acetate (50 mL) washed with brine, water, and brine (15 mL each). The organics were dried over sodium sulfate, concentrated and the residue was purified by flash chromatography (hexanes to 1:1 hexanes/ethyl acetate gradient) followed by crystallization from hexanes to give the title compound (0.031 g, 51%), m.p. 219°-220° C.

reactant | Resorcinol | 0.74 mmol, 0.082 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | potassium tert-butoxide | 0.15 mmol, 1.0M, 0.15 mL | CC(C)([O-])C.[K+]
reactant | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.14 mmol, 0.050 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
solvent | dimethyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-5,11-dihydro-11-ethyl-8-(3-hydroxyphenyl)methyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.031 g, 51% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CC3=CC(=CC=C3)O)=O)C | C21H19ClN4O2
